US04433152
A mixture of 5.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride and 9.2 g of bis-(p-t-butylphenyl)sulfite was stirred at room temperature for 3 hours in a solution of 40 ml of dry dimethylformamide and 20 ml of dry pyridine. The solvent was removed under reduced pressure, and ether was added to the residue to give crystals. The crystals were washed with ether and then with acetone and dissolved in methanol. After removal of any insoluble materials, ether was added to the solution to obtain 7.2 g (yield: 92%) of p-t-butylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 159° to 163° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 5.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | bis-(p-t-butylphenyl)sulfite | 9.2 g | C(C)(C)(C)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C(C)(C)C | C20H26O3S
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-t-butylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 7.2 g, yield: 92% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)C(C)(C)C | InChI=1S/C19H29N3O2.ClH/c1-19(2,3)15-5-7-16(8-6-15)24-17(23)9-4-14-10-12-22(13-11-14)18(20)21;/h5-8,14H,4,9-13H2,1-3H3,(H3,20,21);1H
